US04138404
A solution of 5-isopropyl-3-(2-nitro-4-chlorophenyl)-1,3,4-oxadiazolin-2-one (16 g.) in ethyl acetate (130 cc.) containing 3% w/w palladium of charcoal (1 g.) is hydrogenated at atmospheric pressure and at approximately 20° C. After the absorption of hydrogen (1.9 liters) (70% of the theoretical amount), the reaction is stopped and the reaction mixture is filtered. The filtrate is concentrated under reduced pressure and the residue taken up in benzene (50 cc.); the crystals obtained are filtered off and washed with benzene (15 cc.). 5-Isopropyl-3-(2-hydroxylamino-4-chlorophenyl)-1,3,4-oxadiazolin-2-one (7.2 g.) which melts at 138°-140° C., is obtained. The benzene filtrate is recycled and is subjected to an operation identical to that described above. 5-Isopropyl-3-(2-hydroxylamino-4-chlorophenyl)-1,3,4-oxadiazolin-2-one (2.9 g.), which melts at 138°-140° C., is obtained.

reactant | 5-isopropyl-3-(2-nitro-4-chlorophenyl)-1,3,4-oxadiazolin-2-one | 16 g | C(C)(C)C1=NN(C(O1)=O)C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C11H10ClN3O4
reactant | charcoal | 1 g | C | CH4
solvent | ethyl acetate | 130 cc | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
product | 5-Isopropyl-3-(2-hydroxylamino-4-chlorophenyl)-1,3,4-oxadiazolin-2-one | 7.2 g | C(C)(C)C1=NN(C(O1)=O)C1=C(C=C(C=C1)Cl)NO | C11H12ClN3O3
